US08669271B2
4-[5-(2-Trifluoromethyl-pyridin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester
The title compound is prepared from 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester and 2-(trifluoromethyl)pyridine-4-boronic acid following a procedure analogous to that described in Example 28. LC (method 10): tR=1.82 min; Mass spectrum (ESI+): m/z=450 [M+H]+.

reactant | 4-(5-chloro-2,3-dihydro-furo[2,3-c]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)Cl)O1 | C17H23ClN2O3
reactant | 2-(trifluoromethyl)pyridine-4-boronic acid | FC(C1=NC=CC(=C1)B(O)O)(F)F | C6H5BF3NO2
product | 4-[5-(2-Trifluoromethyl-pyridin-4-yl)-2,3-dihydro-furo[2,3-c]pyridin-2-yl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1CC=2C(=CN=C(C2)C2=CC(=NC=C2)C(F)(F)F)O1 | C23H26F3N3O3
